US04564620
6-methyl-5-heptenyl bromide
A solution of 11 g of 6-methyl-5-heptenyl tosylate in 100 ml of THF were added 10 ml of HMPA, 50 g of potassium bromide and 300 mg of 18-crown-6, and the resulting mixture was refluxed for 5 hours. After cooling, water was added, and the mixture was concentrated, the residue was extracted with pentane 3 times, the combined organic layers were washed with a saturated aqueous solution of sodium hydrogen carbonate water and saturated brine, dried and concentrated to give 8 g of an oily substance. This oily substance was distilled (bp 70° C./5 mm Hg) to yield 5.7 g of a pure bromide.

reactant | 6-methyl-5-heptenyl tosylate | 11 g | S(=O)(=O)(OCCCCC=C(C)C)C1=CC=C(C)C=C1 | C15H22O3S
reactant | HMPA | 10 ml | CN(C)P(=O)(N(C)C)N(C)C | C6H18N3OP
reactant | potassium bromide | 50 g | [Br-].[K+]
reactant | water | O | H2O
solvent | THF | 100 ml | C1CCOC1 | C4H8O
catalyst | 18-crown-6 | 300 mg | C1COCCOCCOCCOCCOCCO1 | C12H24O6
product | 6-methyl-5-heptenyl bromide | 5.7 g | CC(=CCCCCBr)C | C8H15Br
